US04530921
A solution of 4.7 mg of 85% metachloroperbenzoic acid and 0.5 ml of fresh methylene chloride is prepared, is placed in a test tube, fitted with a septum and immersed in a dry ice acetone bath. There was added a solution of 0.5 ml of methylene chloride containing 20 mg of avermectin B1a/B1b. The reaction mixture is stirred under nitrogen at -70° C. for two hours and at -30° C. for 30 minutes. Then the reaction mixture was placed in an ice bath for 4 hr. and in a refrigerator for 2 days. The reaction mixture was placed on an 8×8 inch chromatography plate with a layer of 250 microns of silica gel and developed with 5% isopropanol in benzene three times. Two fractions are observed: the faster moving fraction weighing 6.4 mg; a slower moving fraction weighing 8.2 mg. The mass spectral and nuclear magnetic resonance analysis of both fractions indicate that the slow moving fraction was avermectin B 1a/B1b-8,9-epoxide.

reactant | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 0.5 ml, 20 mg | C(Cl)Cl | CH2Cl2
reactant | avermectin B1a | CCC(C)C1[C@H](C=C[C@@]2(O1)C[C@@H]3CC(O2)C/C=C(/[C@H]([C@H](/C=C/C=C/4\COC5[C@@]4(C(C=C([C@H]5O)C)C(=O)O3)O)C)OC6C[C@@H]([C@H]([C@@H](O6)C)OC7C[C@@H]([C@H]([C@@H](O7)C)O)OC)OC)\C)C | C48H72O14
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | avermectin | CCC(C)[C@@H]1[C@H](C=C[C@@]2(O1)C[C@@H]3C[C@H](O2)C/C=C(/[C@H]([C@H](/C=C/C=C/4\CO[C@H]5[C@@]4([C@@H](C=C([C@H]5O)C)C(=O)O3)O)C)O[C@H]6C[C@@H]([C@H]([C@@H](O6)C)O[C@H]7C[C@@H]([C@H]([C@@H](O7)C)O)OC)OC)\C)C | C48H72O14
solvent | benzene | C1=CC=CC=C1 | C6H6
product | metachloroperbenzoic acid | 4.7 mg, 85% | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
